US08895761B2
tert-Butyllithium (1.6 M solution in hexanes, 13 ml, 0.02 mol) is added dropwise to a solution of 4-bromo-4′-chloro-3,5-diethylbiphenyl (4.5 g, 0.0139 mol) in dry tetrahydrofuran (50 ml) at −78° C. under an atmosphere of nitrogen. The reaction mixture is stirred at −78° C. for 30 minutes, then trimethylborate (9.3 ml, 0.083 mol) is added. The resulting mixture is stirred at −78° C. for 1 hour and then allowed to warm to room temperature over 3 hours. The reaction mixture is acidified with 0.1 N aqueous hydrochloric acid solution and the mixture is stirred at room temperature overnight. The mixture is extracted with ethyl acetate (3×100 ml). The organic layers are combined, dried over anhydrous sodium sulfate, filtered and the filtrate is evaporated under reduced pressure. The residue is purified by column chromatography on silica gel to give 4′-chloro-3,5-diethylbiphen-4-ylboronic acid as a white powder (1.8 g).

reactant | tert-Butyllithium | 0.02 mol, 1.6 M, 13 ml | C(C)(C)(C)[Li]
reactant | 4-bromo-4′-chloro-3,5-diethylbiphenyl | 0.0139 mol, 4.5 g | BrC1=C(C=C(C=C1CC)C1=CC=C(C=C1)Cl)CC | C16H16BrCl
reactant | trimethylborate | 0.083 mol, 9.3 ml | COB(OC)OC | C3H9BO3
reactant | hydrochloric acid | 0.1 N | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4′-chloro-3,5-diethylbiphen-4-ylboronic acid | 1.8 g | ClC1=CC=C(C2=CC(=C(C(=C2)CC)B(O)O)CC)C=C1 | C16H18BClO2
